US04232014
5-Phenylacetyl-6-methylindan (VI)
Phenylacetyl chloride was reacted with 5-aminoethyl-6-methylindan to produce the desired product. After recrystallization from benzene it melted at 125.5°-127° C.

reactant | Phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 5-aminoethyl-6-methylindan | NCCC=1C=C2CCCC2=CC1C | C12H17N
product | 5-Phenylacetyl-6-methylindan | C1(=CC=CC=C1)CC(=O)C=1C=C2CCCC2=CC1C | C18H18O
